US05998439
Combine 2-methoxy-5-trifluoromethoxybenzene (1.0 g, 5.2 mmol) and trifluoroacetic acid (200 mL). Add slowly portionwise hexamethylenetetraamine (26 g, 185.7 mmol). Heat at 60° C. After 24 hours, cool to ambient temperature and pour the reaction mixture into a 2 M aqueous solution of sulfuric acid (500 mL). Cool and extract ten times with diethyl ether. Dry the combined organic layers over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 1/4 ethyl acetate/hexane to give 2-methoxy-5-trifluoromethoxybenzaldehyde.

reactant | 2-methoxy-5-trifluoromethoxybenzene | 5.2 mmol, 1.0 g | COC1=CC=C(C=C1)OC(F)(F)F | C8H7F3O2
reactant | trifluoroacetic acid | 200 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | hexamethylenetetraamine | 185.7 mmol, 26 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | sulfuric acid | 500 mL | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2-methoxy-5-trifluoromethoxybenzaldehyde | COC1=C(C=O)C=C(C=C1)OC(F)(F)F | C9H7F3O3
